US08614328B2
A mixture of 3-(4-chloro-benzyloxy)-phthalic acid (1.9 g, 6.2 mmol), alpha-amino-glutarimide hydrochloride (1.1 g, 6.5 mmol) in pyridine was refluxed overnight. The mixture was evaporated and the residue was purified by flash column chromatography (methanol/methylene chloride) to give 4-(4-chloro-benzyloxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione as a white solid (1.2 g, 49% yield); HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 50/50 CH3CN/0.1% H3PO4, 6.64 min (99.9%); mp, 239-241° C.; 1H NMR (DMSO-d6) δ 2.00-2.07 (m, 1H, CHH), 2.54-2.62 (m, 2H, CH2), 2.83-2.95 (m, 1H, CHH), 5.12 (dd, J=6, 12 Hz, 1H, CH), 5.38 (s, 2H, CH2), 7.48-7.86 (m, 7H, Ar), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.96, 30.91, 48.75, 69.18, 115.66, 116.65, 120.16, 128.50, 129.02, 132.52, 133.25, 135.22, 137.03, 155.27, 165.30, 166.74, 169.89, 172.75. Anal Calcd For C20H15N2O5Cl: C, 60.24; H, 3.79; N, 7.02; Cl, 8.89. Found: C, 60.41; H, 3.63; N, 7.02; Cl, 8.72.

reactant | 3-(4-chloro-benzyloxy)-phthalic acid | 6.2 mmol, 1.9 g | ClC1=CC=C(COC2=C(C(C(=O)O)=CC=C2)C(=O)O)C=C1 | C15H11ClO5
reactant | alpha-amino-glutarimide hydrochloride | 6.5 mmol, 1.1 g | Cl.NC1C(=O)NC(CC1)=O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(4-chloro-benzyloxy)-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione | 1.2 g, 49% yield | ClC1=CC=C(COC2=C3C(N(C(C3=CC=C2)=O)C2C(NC(CC2)=O)=O)=O)C=C1 | C20H15ClN2O5
